US04579963
Methyl di(isopropenyloxy)silane of the structural formula HSiMe(OCMe=CH2)2 was synthesized according to a known procedure by the reaction of acetone and methyl dichlorosilane followed by purification by distillation.

reactant | methyl dichlorosilane | C[SiH](Cl)Cl | CH4Cl2Si
reactant | acetone | CC(=O)C | C3H6O
product | Methyl di(isopropenyloxy)silane | C[SiH](OC(=C)C)OC(=C)C | C7H14O2Si
